US03976681
Step B: 2,2-Diethyl-4,5-dimethyl-6-hydroxy-indan-1,3-dione
A mixture of 2,2-diethyl-4,5-dimethyl-6-methoxy-indan-1,3-dione (5.5 g., 0.021 mole) and pyridine hydrochloride (50 g.) is heated at 180°C. for six hours then poured into water (1 l) affording 4.0 g. of 2,2-diethyl-4,5-dimethyl-6-hydroxy-indan-1,3-dione which melts at 141°-142°C. after recrystallization from methanol-water.

reactant | 2,2-diethyl-4,5-dimethyl-6-methoxy-indan-1,3-dione | 0.021 mole, 5.5 g | C(C)C1(C(C2=CC(=C(C(=C2C1=O)C)C)OC)=O)CC | C16H20O3
reactant | pyridine hydrochloride | 50 g | Cl.N1=CC=CC=C1
solvent | water | 1 l | O | H2O
product | 2,2-Diethyl-4,5-dimethyl-6-hydroxy-indan-1,3-dione | C(C)C1(C(C2=CC(=C(C(=C2C1=O)C)C)O)=O)CC | C15H18O3
